US04435404
Into 400 ml of chloroform, were added 5 g of 6-(4-carboxybutoxy)-3,4-dihydrocarbostyril and 3.2 g of DBU. The outside of the reaction vessel containing the above mentioned mixture was ice-cooled and 2.8 g of isobutyl chloroformate was added dropwise to the mixture under stirring condition. After the addition operation, stirring was continued at a room temperature for 30 minutes and 3.9 g of N-(3-hydroxypropyl)-N-cyclohexylmethylamine was added to the reaction mixture and the reaction was continued for 3 hours. After the reaction was completed, the reaction mixture was washed with 1 N-NaOH aqueous solution, 10% HCl and water in this order and was dried with anhydrous Na2SO4. The drying agent was removed by filtration and the thus obtained dried product was concentrated to obtain a residue. The residue was treated by a silica-gel column chromatography (solvent used was a mixture of chloroform:methanol=40:1). The elute obtained was concentrated and was recrystallized from ethyl acetate-petroleum ether. 4.0 Grams of 6-{4-[N-cyclohexylmethyl-N-(3-hydroxypropyl)aminocarbonyl]butoxy}-3,4-dihydrocarbostyril was obtained in the form of colorless needle-like crystals. Melting point: 95°-97° C.

reactant | 6-(4-carboxybutoxy)-3,4-dihydrocarbostyril | 5 g | C(=O)(O)CCCCOC=1C=C2CCC(NC2=CC1)=O | C14H17NO4
reactant | DBU | 3.2 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | isobutyl chloroformate | 2.8 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-(3-hydroxypropyl)-N-cyclohexylmethylamine | 3.9 g | OCCCNCC1CCCCC1 | C10H21NO
solvent | methanol | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 400 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-{4-[N-cyclohexylmethyl-N-(3-hydroxypropyl)aminocarbonyl]butoxy}-3,4-dihydrocarbostyril | C1(CCCCC1)CN(C(=O)CCCCOC=1C=C2CCC(NC2=CC1)=O)CCCO | C24H36N2O4
